US07790770B2
To a solution of (R)-1-(3-(aminomethyl)-4-fluorophenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine (229 mg, 0.50 mmol) at 0° C. in CH2Cl2 (5 mL) was added DIEA (0.11 mL, 0.61 mmol) and (Boc)2O (0.12 mL, 0.50 mmol). The reaction mixture was stirred at 0° C. for 1.5 h and was then poured into sat. NH4Cl and the aqueous layer was extracted with EtOAc. The organic phase was dried over Na2SO4, filtered and concentrated. The resulting residue was purified by ISCO column chromatography (12 g, 0-30% EtOAc/hexane) to yield (R)-tert-butyl 5-(1-amino-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-fluorobenzylcarbamate as a white foam (202 mg, 72% yield). 1H NMR (400 MHz, CDCl3) δ ppm 3.49 (s, 2H), 7.34 (m, 1H), 7.17 (m, 4H), 6.97 (m, 3H), 6.83 (d, J=8.84 Hz, 1H), 6.73 (d, J=6.32 Hz, 2H), 5.86 (m, 1H), 4.86 (br. s., 1H), 4.31 (d, J=4.55 Hz, 2H), 3.49 (s, 2H), 1.42 (s, 9H).

reactant | (R)-1-(3-(aminomethyl)-4-fluorophenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethanamine | 0.50 mmol, 229 mg | NCC=1C=C(C=CC1F)[C@@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C23H20F6N2O
reactant | DIEA | 0.61 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (Boc)2O | 0.50 mmol, 0.12 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 5-(1-amino-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-2-fluorobenzylcarbamate | 202 mg, 72% yield | N[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)C=1C=CC(=C(CNC(OC(C)(C)C)=O)C1)F | C28H28F6N2O3
